US06265349B1
Preparation of 3-(4-chlorophenyl)-4-fluoro-1-methyl-6-trifluoromethyl-2(1H)-pyridone (Compound No. 11-2)
To 10 ml of dimethylsulfoxide, 0.33 g (1.09 mmol) of 3-(4-chlorophenyl)-4-chloro-1-methyl-6-trifluoromethyl-2(1H)-pyridone and 0.05 g (0.86 mmol) of potassium fluoride were dissolved, followed by heating and stirring at 120° C. for 2 hours. After completion of the at reaction, the reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The organic layer was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain 0.12 g (yield: 38%) of the desired product. Melting point: 120-122° C. 1H-NMR (300 MHz, CDCl3) δ value: 3.42(3H,d), 6.20(1H,d), 7.16(2H,d), 7.40(2H,d)ppm.

reactant | 3-(4-chlorophenyl)-4-chloro-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 1.09 mmol, 0.33 g | ClC1=CC=C(C=C1)C=1C(N(C(=CC1Cl)C(F)(F)F)C)=O | C13H8Cl2F3NO
reactant | potassium fluoride | 0.86 mmol, 0.05 g | [F-].[K+]
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 3-(4-chlorophenyl)-4-fluoro-1-methyl-6-trifluoromethyl-2(1H)-pyridone | 0.12 g, yield: 38% | ClC1=CC=C(C=C1)C=1C(N(C(=CC1F)C(F)(F)F)C)=O | C13H8ClF4NO
